US04686220
N-(4-Chlorophenyl)-4-(1,4-dihydro-3-methyl-1,4-dioxo-2-naphthalenyl)-1-piperazinecarboxamide
A solution of 150 mg of 3-methyl-2-piperazinyl-1,4-naphthoquinone in 50 ml of tetrahydrofuran was treated with a solution of 100 mg of 4-chlorophenylisocyanate in 10 ml of tetrahydrofuran. This mixture was stirred 1/2 hour, then evaporated in vacuo and the residue taken up in dichloromethane and filtered. The filtrate was evaporated and the residue recrystallized from dichloromethane/hexane, giving 200 mg of the desired product, mp 190°-192° C.

reactant | 3-methyl-2-piperazinyl-1,4-naphthoquinone | 150 mg | CC1=C(C(C2=CC=CC=C2C1=O)=O)N1CCNCC1 | C15H16N2O2
reactant | 4-chlorophenylisocyanate | 100 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(4-Chlorophenyl)-4-(1,4-dihydro-3-methyl-1,4-dioxo-2-naphthalenyl)-1-piperazinecarboxamide | 200 mg | ClC1=CC=C(C=C1)NC(=O)N1CCN(CC1)C=1C(C2=CC=CC=C2C(C1C)=O)=O | C22H20ClN3O3
